US07517902B2
A solution of 0.8 g of 2,3-difluoro-4-(4-tert-butoxycarbonylaminophenyl)benzonitrile in 25 mL of absolute ethanol is admixed with 0.35 mL of hydrazine hydrate. The reaction mixture is stirred for 19 hours at the reflux of the solvent and then concentrated under reduced pressure. The solid residue is stirred with 25 mL of distilled water, filtered and washed with 2×5 mL of dichloromethane. After suction treatment, 0.54 g of 3-amino-7-fluoro-6-(4-tert-butoxycarbonylaminophenyl)-1H-indazole is obtained, whose characteristics are as follows:

reactant | 2,3-difluoro-4-(4-tert-butoxycarbonylaminophenyl)benzonitrile | 0.8 g | FC1=C(C#N)C=CC(=C1F)C1=CC=C(C=C1)NC(=O)OC(C)(C)C | C18H16F2N2O2
reactant | hydrazine hydrate | 0.35 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-amino-7-fluoro-6-(4-tert-butoxycarbonylaminophenyl)-1H-indazole | 0.54 g | NC1=NNC2=C(C(=CC=C12)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F | C18H19FN4O2
